US08957203B2
Preparation of 3,3-difluoro-2-methylbutan-2-yl pyridin-2-yl carbonate
To a suspension of sodium hydride, 60% in mineral oil (0.652 g, 16.31 mmol) in THF (25 mL) was added 3,3-difluoro-2-methylbutan-2-ol (1.84 g, 14.82 mmol) at 0° C. After stirring 30 min, the solution was transferred to a solution of di(pyridin-2-yl)carbonate (3.20 g, 14.82 mmol) in THF (25 mL) through a cannula. The formed slurry was stirred at 0° C. for 30 min. The slurry was warmed to rt and stirred for 2 h. The reaction was diluted with EtOAc, washed with brine, dried over MgSO4, filtered, concentrated to give a residue that was purified by Biotage eluting with 10-50% EtOAc in hexanes to afford the desired product 3,3-difluoro-2-methylbutan-2-yl pyridin-2-yl carbonate (500 mg, 13.76%) as an oil that later crystallized to a white solid upon standing. 1H NMR (500 MHz, CHLOROFORM-d) δ 8.43 (ddd, J=4.9, 2.0, 0.7 Hz, 1H), 7.95-7.75 (m, 1H), 7.31-7.24 (m, 1H), 7.15 (dt, J=8.2, 0.8 Hz, 1H), 1.72 (s, 6H), 1.77-1.66 (m, 3H).

reactant | sodium hydride | [H-].[Na+]
reactant | 3,3-difluoro-2-methylbutan-2-ol | 14.82 mmol, 1.84 g | FC(C(C)(O)C)(C)F | C5H10F2O
reactant | di(pyridin-2-yl)carbonate | 14.82 mmol, 3.20 g | N1=C(C=CC=C1)OC(OC1=NC=CC=C1)=O | C11H8N2O3
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3,3-difluoro-2-methylbutan-2-yl pyridin-2-yl carbonate | 500 mg, 13.76% | C(OC(C)(C(C)(F)F)C)(OC1=NC=CC=C1)=O | C11H13F2NO3
